US07442791B2
A solution of 300 mg (0.64 mmol) of from trans-2-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid tert-butyl ester in 3 ml of CH2Cl2 was treated wit 0.5 ml (6.7 mmol, 10 eq) of trifluoroacetic acid and stirred at 40° during 3 h. Evaporation of the solvent gave 266 mg (quantitative) of trans-2-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid as an off-white solid, MS: 408 (M−H−).

reactant | trans-2-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)O[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)=O | C21H30F3NO5S
reactant | trifluoroacetic acid | 6.7 mmol, 0.5 ml, 10 eq | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | trans-2-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid | 266 mg | CN([C@@H]1CC[C@H](CC1)OC(C(=O)O)C)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C17H22F3NO5S
